US07183306B2
To a solution of 4′-benzyloxypropiophenone (6.0 g) in THF (120 ml) at −60° C. was added 38 ml of 1N lithium bis(trimethylsilyl)amide (LiHMDS), and the mixture was stirred at under −60° C. for 45 mins. 1-(Trifluoroacetyl)-imidazole (3.4 ml) was added and the mixture was stirred at −60° C. for 1 hour and at 0° C. for 30 min. The raction mixture was quenched with 0.5N HCl, the mixture was poured into EtOAc and water, and the EtOAc layer was separated, washed with brine, died over MgSO4, and concentrated to give 1-[4-(benzyloxy)phenyl]-4,4,4-trifluoro-2-methyl-1,3-butanedione.

reactant | 4′-benzyloxypropiophenone | 6.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CC)=O | C16H16O2
reactant | lithium bis(trimethylsilyl)amide | 1N, 38 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 1-(Trifluoroacetyl)-imidazole | 3.4 ml | FC(C(=O)N1C=NC=C1)(F)F | C5H3F3N2O
solvent | THF | 120 ml | C1CCOC1 | C4H8O
product | 1-[4-(benzyloxy)phenyl]-4,4,4-trifluoro-2-methyl-1,3-butanedione | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C(C(C(F)(F)F)=O)C)=O | C18H15F3O3
